US07179801B2
To a suspension of lithium aluminum hydride (5.7 g, 150 mmol) in tetrahydrofuran (200 ml) was added ethyl (E)-3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)acrylate (21.9 g, 50 mmol) at room temperature. The mixture was stirred at room temperature for 1 hour. After cooling on an ice bath, potassium fluoride (34 g) and water (10 ml) were added to the reaction mixture. The insoluble materials were removed by filtration. The filtrate was concentrated in vacuo, and the residue was dissolved in chloroform. The solution was washed with 10% aqueous citric acid solution. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The oily residue was purified by column chromatography on silica gel eluting with chloroform to give 3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)propanol (14.8 g) as a solid.

reactant | lithium aluminum hydride | 150 mmol, 5.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl (E)-3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)acrylate | 50 mmol, 21.9 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C(=O)OCC | C28H27N3O2
reactant | potassium fluoride | 34 g | [F-].[K+]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)propanol | 14.8 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCO | C26H27N3O
